US07462624B2
Step B: N-pentyl-5-(3-phenyl-1H-1,2,4-triazol-5-yl)-1H-imidazol-4-amine
The mixture of 4-(pentylamino)-1H-imidazole-5-carbonitrile (200 mg, 1.12 mmol), benzohydrazide (229 mg, 1.68 mmol) and potassium carbonate (100 mg, 0.72 mmol) in 1-butanol (6 ml) in a sealed tube was stirred at 170° C. for 14 hours. The reaction was diluted with water and extracted with EtOAc three times. The combined organic layers was dried with sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by preparative LCMS (method A) to yield the desired product (50 mg, 17% yield). LCMS calculated for C16H21N6 (M+H): 297.2; found 297.1.

reactant | 4-(pentylamino)-1H-imidazole-5-carbonitrile | 1.12 mmol, 200 mg | C(CCCC)NC=1N=CNC1C#N | C9H14N4
reactant | benzohydrazide | 1.68 mmol, 229 mg | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | potassium carbonate | 0.72 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1-butanol | 6 ml | C(CCC)O | C4H10O
solvent | water | O | H2O
product | N-pentyl-5-(3-phenyl-1H-1,2,4-triazol-5-yl)-1H-imidazol-4-amine | 50 mg, 17% yield | C(CCCC)NC=1N=CNC1C1=NC(=NN1)C1=CC=CC=C1 | C16H20N6
